US07435837B2
Treatment of (±)-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (3.0 g, 6.81 mmol) with sodium azide (1.77 g, 27.26 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.215 g, 10 wt. %) generally according to the procedure described for Example 1 provided 1.57 g (72%) of (±)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 175-178° C.; Anal. calcd. for C17H19NO3HCl: C, 63.45; H, 6.26; N, 4.35. Found: C, 62.59; H, 6.25; N, 4.01.

reactant | (±)-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 6.81 mmol, 3.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)OC)OC | C24H24O6S
reactant | sodium azide | 27.26 mmol, 1.77 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)OC)OC | C17H17N3O3
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.215 g | [Pd] | Pd
product | (±)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.57 g, 72% | COC1=C(C=CC(=C1)OC)C1=CC=CC=2CC(OC21)CN | C17H19NO3
